US08957080B2
Into a 100 mL, 3-necked round-bottom flask purged and maintained under an inert atmosphere of nitrogen, was placed a solution of 1,2-difluoro-3-(4-iodophenoxy)benzene (2 g, 6.02 mmol, 1.00 equiv) in N,N-dimethylformamide (50 mL), 4,4,5,5-tetramethyl-2-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane (1.68 g, 6.62 mmol, 1.10 equiv), potassium acetate (68 mg, 0.69 mmol, 0.05 equiv), and Pd(OAc)2(1.76 g, 7.84 mmol, 3.00 equiv). The resulting solution was stirred for 12 h at 85° C. in an oil bath. The reaction was then diluted with water, extracted with ethyl acetate and the organic layers were combined. The organics were washed with water and brine, dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was loaded onto a silica gel column and eluted with ethyl acetate/petroleum ether (1/8) to give 1.5 g (75%) of 2-[4-(2,3-difluorophenoxy)phenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane as a light yellow solid.

reactant | 1,2-difluoro-3-(4-iodophenoxy)benzene | 6.02 mmol, 2 g, 1.00 equiv | FC1=C(C(=CC=C1)OC1=CC=C(C=C1)I)F | C12H7F2IO
reactant | 4,4,5,5-tetramethyl-2-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane | 6.62 mmol, 1.68 g, 1.10 equiv | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 0.69 mmol, 68 mg, 0.05 equiv | C(C)(=O)[O-].[K+]
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
catalyst | Pd(OAc)2 | 7.84 mmol, 1.76 g, 3.00 equiv | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 2-[4-(2,3-difluorophenoxy)phenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 1.5 g, 75% | FC1=C(OC2=CC=C(C=C2)B2OC(C(O2)(C)C)(C)C)C=CC=C1F | C18H19BF2O3
